Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5](=[C:7]([H:8])[H:9])=[C:10]([H:11])[C:12]([H:13])[H:14].[H:1][C:2]([H:3])([C:4][H:6])[H:15]>>[H:1][C:2]([H:3])/[C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10](/[H:11])[C:12]([H:13])([H:14])[H:15],-4.66469391683
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6],1.5810669914500002
[C:10][H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7]([H:8])=[O:9]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11],-5.05358607134
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.08035116418
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5],3.59735937819
[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.40597805458
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-3.28559926008
[H:12].[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.40966982839
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:3][H:4].[O:1]=[C:2][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],5.39611830497
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.95703011927
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.9615347
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7][C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7],6.59824458073
[C:4]([O:5][H:6])[C:7]#[C:10][H:11].[H:1][C:2](=[C:3]([H:8])[H:12])[H:9]>>[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],1.29635237114
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1][O:2][C:3][C:4]([H:5])([H:6])[H:7]>>[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.8553009216500005
[H:1][C:2][O:3][C:4]([H:5])[C:6](=[O:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.66678944367
[H:12].[H:1][O:2][C:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:13]([H:14])[H:15]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.82029309473
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:9](\[H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:8],4.95447215574
[O:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[H:4].[O:1]=[C:2]([H:3])[C:5][C:6]([H:7])([H:8])[O:9][H:10],0.595635212738
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12],-4.4344001983800005
[C:10]([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-7.40459049952
[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:1][C:5]#[C:4],7.39577339736
[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-1.62890555442
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14]>>[C:8](=[C:9]([H:10])[H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-0.702106229512
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]([H:3])([C:4]([H:5])[C:12]([H:13])([H:14])[H:15])[H:11],4.3233968571300005
[H:1][C:2]#[C:3][C:5][O:6][H:7].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][H:7],-1.86973923837
[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-4.24570389856
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4](=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][H:3],1.090507862
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.99147172871
